US08383644B2
Esterification. To a solution of (S)-3-(5-bromo-thiophen-2-yl)-2-ter t-butoxycarbonylamino-propionic acid in DMF (50 mL) was added DIEA and methyl iodide. The reaction mixture stirred at rt for 2.5 h and was poured onto EtOAc and water. The organic layer was washed with 1 N HCl and 10% sodium carbonate, dried over sodium sulfate and concentrated to furnish (S)-3-(5-bromo-thiophen-2-yl)-2-tert-butoxycarbonylamino-propionic acid methyl ester. This product was used without further purification.

reactant | (S)-3-(5-bromo-thiophen-2-yl)-2-ter t-butoxycarbonylamino-propionic acid | BrC1=CC=C(S1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C12H16BrNO4S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl iodide | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-3-(5-bromo-thiophen-2-yl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC=1SC(=CC1)Br)NC(=O)OC(C)(C)C)=O | C13H18BrNO4S
